US07622583B2
A mixture of 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl chloride (100 mg, 0.24 mmol), 3-ethylamino-indazole-1-carboxylic acid tert-butyl ester (62.6 mg, 0.24 mmol), and TEA (0.64 mL) in THF (1 mL) was stirred at 60° C. for 2 hours and then purified by flash column to give 3-{[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-ethyl-amino}-indazole-1-carboxylic acid tert-butyl ester.

reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl chloride | 0.24 mmol, 100 mg | ClC=1C=C(C(=NC1)C(=O)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H6Cl3F3N2O3S
reactant | 3-ethylamino-indazole-1-carboxylic acid tert-butyl ester | 0.24 mmol, 62.6 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)NCC | C14H19N3O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-{[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-ethyl-amino}-indazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)N(CC)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C27H24Cl2F3N5O5S
